US05208247
[4-(Tetradecyloxy)phenyl]acetic acid methyl ester
A mixture of 200 g of methyl 4-hydroxyphenylacetate, 350.4 g of 1-bromotetradecane, 207.9 g of potassium carbonate, 10 g of potassium iodide and 1.5 L of acetone is heated at reflux temperature for 24 hours. The reaction is cooled to room temperature, concentrated in vacuo and the residue is recrystallized from cold hexane to give 276.0 g of the desired product.

reactant | methyl 4-hydroxyphenylacetate | 200 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | 1-bromotetradecane | 350.4 g | BrCCCCCCCCCCCCCC | C14H29Br
reactant | potassium carbonate | 207.9 g | C([O-])([O-])=O.[K+].[K+]
catalyst | potassium iodide | 10 g | [I-].[K+]
solvent | acetone | 1.5 L | CC(=O)C | C3H6O
product | [4-(Tetradecyloxy)phenyl]acetic acid methyl ester | 276.0 g | COC(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | C23H38O3
